US05739132
In 8 ml of a 25% hydrogen bromide-acetic acid solution was suspended 1.41 g of 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-[(2-methylphenyl)sulfonylamino]-4,5,6,7-tetrahydrobenzo-[b]thiophene, and 0.25 ml of dimethylsulfoxide was added thereto. The mixture was stirred at room temperature for 2 hours. Then, diisopropyl ether was added to the reaction mixture, and crystals precipitated were collected by filtration to obtain 1.00 g of 2-[pyridazin-3(2H)-on-6-yl]-5-[(2-methylphenyl)sulfonylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene.

reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
reactant | 2-[4,5-dihydropyridazin-3(2H)-on-6-yl]-5-[(2-methylphenyl)sulfonylamino]-4,5,6,7-tetrahydrobenzo-[b]thiophene | 1.41 g | N=1NC(CCC1C1=CC2=C(S1)CCC(C2)NS(=O)(=O)C2=C(C=CC=C2)C)=O | C19H21N3O3S2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dimethylsulfoxide | 0.25 ml | CS(=O)C | C2H6OS
product | 2-[pyridazin-3(2H)-on-6-yl]-5-[(2-methylphenyl)sulfonylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene | 1.00 g | N=1NC(C=CC1C1=CC2=C(S1)CCC(C2)NS(=O)(=O)C2=C(C=CC=C2)C)=O | C19H19N3O3S2
